US04367234
2-Ethoxy-1-naphthaldehyde
2-Hydroxy-1-naphthaldehyde (10 g., 0.058 mole) was combined with acetone (120 ml.), iodoethane (9.9 g., 0.063 mole) and anhydrous potassium carbonate (8.0 g., 0.058 mole) and the mixture heated to reflux for 48 hours. The reaction mixture was cooled to room temperature, filtered and filtrate evaporated to solids (9.0 g.) Recrystallization from isopropyl ether afforded purified 2-ethoxy-1-naphthaldehyde in two crops (4.5 g. and 0.5 g., m.p. 106°-109° C.).

reactant | 2-Hydroxy-1-naphthaldehyde | 0.058 mole, 10 g | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | iodoethane | 0.063 mole, 9.9 g | ICC | C2H5I
reactant | potassium carbonate | 0.058 mole, 8.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 2-Ethoxy-1-naphthaldehyde | C(C)OC1=C(C2=CC=CC=C2C=C1)C=O | C13H12O2
